US07553840B2
Cs2CO3 (8.45 g, 26 mmol) was added to the solution of 1-(4-bromo-2-fluoro-phenyl)-2,2,2-trifluoro-ethanol (1.4 g, 5.2 mmol) in 10 ml of anhydrous 1,4-dioxane, the mixture was stirred for 5 minutes, then (S)-3-[4-(2-amino-6-chloro-pyrimidin-4-yl)-phenyl]-2-tert-butoxycarbonylamino-propionic acid (2.0 g, 5 mmol) was added, and the resulting mixture was heated at 110° C. overnight. After cooling, 5 ml of water was added and ethyl acetate (20 ml) was used to extract the product. The organic layer was dried over sodium sulfate. The solvent was removed by rotovap to give 2.6 g of (S)-3-(4-{2-amino-6-[1-(4-bromo-2-fluoro-phenyl)-2,2,2-trifluoro-ethoxy]-pyrimidin-4-yl}phenyl)2tertbutoxycarbonylamino-propionic acid (yield: 82%).

reactant | Cs2CO3 | 26 mmol, 8.45 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-(4-bromo-2-fluoro-phenyl)-2,2,2-trifluoro-ethanol | 5.2 mmol, 1.4 g | BrC1=CC(=C(C=C1)C(C(F)(F)F)O)F | C8H5BrF4O
reactant | (S)-3-[4-(2-amino-6-chloro-pyrimidin-4-yl)-phenyl]-2-tert-butoxycarbonylamino-propionic acid | 5 mmol, 2.0 g | NC1=NC(=CC(=N1)C1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C)Cl | C18H21ClN4O4
reactant | water | 5 ml | O | H2O
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | (S)-3-(4-{2-amino-6-[1-(4-bromo-2-fluoro-phenyl)-2,2,2-trifluoro-ethoxy]-pyrimidin-4-yl}phenyl)2tertbutoxycarbonylamino-propionic acid | 2.6 g, yield: 82% | NC1=NC(=CC(=N1)C1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C)OC(C(F)(F)F)C1=C(C=C(C=C1)Br)F | C26H25BrF4N4O5
